US09216981B2
The tert-butyl-3-amino-2,6-difluorophenylcarbamate (100 mg, 0.41 mmol) prepared at Step 3 was added and dissolved into dichloromethane solvent. 2-propane sulfonyl chloride (50 uL, 0.45 mmol) and pyridine (36 uL, 0.045 mmol) were added into the reaction solution and stirred at 50° C. for 2 hours. After the reaction, the reactant was washed with 1N aqueous hydrochloric acid solution and salt water. After extraction with dichloromethane, the organic layer was dried with sulfuric anhydride magnesium and vacuum concentrated, and then refined by means of column chromatography, so that 94 mg of the target compound, tert-butyl-2,6-difluoro-3-(1-methylethylsulfonamido)phenylcarbamate (percentage yield: 65%), was obtained.

reactant | tert-butyl-3-amino-2,6-difluorophenylcarbamate | 0.41 mmol, 100 mg | C(C)(C)(C)OC(NC1=C(C(=CC=C1F)N)F)=O | C11H14F2N2O2
reactant | 2-propane sulfonyl chloride | 0.45 mmol, 50 uL | CC(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | pyridine | 0.045 mmol, 36 uL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl-2,6-difluoro-3-(1-methylethylsulfonamido)phenylcarbamate | yield: 65% | C(C)(C)(C)OC(NC1=C(C(=CC=C1F)NS(=O)(=O)C(C)C)F)=O | C14H20F2N2O4S
